US08669266B2
(i) 4-{2-[(4-Hydroxy-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester
To a solution of 9.5 g of 4-Hydroxy-quinoline-2-carboxylic acid and 12.2 g of 4-(2-Amino-acetyl)-piperazine-1-carboxylic acid butyl ester in 110 ml of DMF, 7.7 g of HOBT and 9.6 g of EDC was added and the reaction mixture was stirred for 16 h at RT. Then, the reaction mixture was diluted with water and extracted with DCM. The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The isolated crude product was used in the next reaction step. Yield: 23 g.

reactant | 4-Hydroxy-quinoline-2-carboxylic acid | 9.5 g | OC1=CC(=NC2=CC=CC=C12)C(=O)O | C10H7NO3
reactant | 4-(2-Amino-acetyl)-piperazine-1-carboxylic acid butyl ester | 12.2 g | C(CCC)OC(=O)N1CCN(CC1)C(CN)=O | C11H21N3O3
reactant | HOBT | 7.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 9.6 g
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{2-[(4-Hydroxy-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC=CC=C2C(=C1)O)=O | C21H26N4O5
